US06291198B1
4-Aminobutyric acid (5.16 g) was dissolved in 20 ml of water. To the resulting solution were added 8.4 ml of N-methylmorpholine and 11.08 g of 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile in 50 ml of acetone. After stirring the resulting mixture overnight at room temperature, about a half of the solvent was distilled off. Water and ethyl acetate were added thereto and thoroughly mixed to separate the solution. The aqueous phase was washed with ethyl acetate, combined with the organic phase, and extracted with 5% aqueous sodium hydrogencarbonate. After combining the aqueous phases, ethyl acetate was added thereto and the pH was adjusted to about 3 with 6 N hydrochloric acid to separate the solution. The aqueous phase was extracted twice with ethyl acetate. The extracts were combined, washed with water, and dried over anhydrous magnesium sulfate. After removal of the desiccant, N,N-dicyclohexylamine was added thereto for crystallization. Crystals were collected by filtration, washed with ether, and dried to obtain 15.07 g of an N,N-dicyclohexylamine salt (yield 79%).

reactant | 4-Aminobutyric acid | 5.16 g | NCCCC(=O)O | C4H9NO2
reactant | N-methylmorpholine | 8.4 ml | CN1CCOCC1 | C5H11NO
reactant | 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile | 11.08 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | water | 20 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N,N-dicyclohexylamine | 15.07 g, yield 79% | C1(CCCCC1)NC1CCCCC1 | C12H23N
